US04281127
A mixture of 1.15 g. of trans-3-(6,8-diisopropyl-4-oxo-4H-quinazolin-3-yl)-2-propenoic acid methyl ester and 50 ml. of 6 N hydrochloric acid was stirred and refluxed for 20 minutes. After cooling to room temperature, 100 ml. of water was added and the reaction mixture was cooled and filtered to yield 0.60 g, mp 181°-182° of pure trans-3-(6,8-diisopropyl-4-oxo-4H-quinazolin-3-yl)-2-propenoic acid.

reactant | trans-3-(6,8-diisopropyl-4-oxo-4H-quinazolin-3-yl)-2-propenoic acid methyl ester | COC(\C=C\N1C=NC2=C(C=C(C=C2C1=O)C(C)C)C(C)C)=O | C18H22N2O3
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | O | H2O
product | trans-3-(6,8-diisopropyl-4-oxo-4H-quinazolin-3-yl)-2-propenoic acid | 0.60 g | C(C)(C)C=1C=C2C(N(C=NC2=C(C1)C(C)C)/C=C/C(=O)O)=O | C17H20N2O3
